US04670448
N-[[5-[[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]amino]-1-methyl-1H-1,2,4-triazol-3-yl]methyl]methanesulphonamide
A mixture of 5-[[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]amino]-1-methyl-1H-1,2,4-triazole-3-methanamine (0.75 g) and methane sulphonyl chloride (0.18 ml) in dry pyridine (15 ml) was stirred at room temperature for 18 hours. The solvent was removed in vacuo and the residue was dissolved in aqueous sodium carbonate and extracted with ethyl acetate. The organic solution was evaporated leaving the title compound (0.5 g). T.l.c. System B, Rf 0.6.

reactant | 5-[[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]amino]-1-methyl-1H-1,2,4-triazole-3-methanamine | 0.75 g | CN(C)CC=1C=C(OCCCNC2=NC(=NN2C)CN)C=CC1 | C16H26N6O
reactant | methane sulphonyl chloride | 0.18 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | N-[[5-[[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]amino]-1-methyl-1H-1,2,4-triazol-3-yl]methyl]methanesulphonamide | 0.5 g | CN(C)CC=1C=C(OCCCNC2=NC(=NN2C)CNS(=O)(=O)C)C=CC1 | C17H28N6O3S
